US08912188B2
To a suspension of sodium hydride (11.24 g, 281 mmol) in anhydrous N,N-dimethylformamide (500 mL) was added 4-chlorophenol (30 g, 234 mmol) at 0° C. After hydrogen evolution had ceased, bromo-acetaldehyde diethyl acetal (55 g, 281 mmol) was added. The reaction was heated at 120° C. overnight. The mixture was poured into ice-water, extracted with ethyl acetate (3×150 ml), washed with 1N sodium hydroxide (3×100 ml), and brine (3×100 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum. The residue was purified by a silica gel column with 1% ethyl acetate in petroleum ether to afford 1-chloro-4-(2,2-diethoxyethoxy)benzene as oil (45 g, 75%).

reactant | sodium hydride | 281 mmol, 11.24 g | [H-].[Na+]
reactant | 4-chlorophenol | 234 mmol, 30 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | hydrogen | [H][H] | H2
reactant | bromo-acetaldehyde diethyl acetal | 281 mmol, 55 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 1-chloro-4-(2,2-diethoxyethoxy)benzene | 45 g, 75% | ClC1=CC=C(C=C1)OCC(OCC)OCC | C12H17ClO3
